* Z:\mnt\design.r\spice\examples\3071.asc
C1 0 N006 .01µ
V1 N001 0 3
V2 IN 0 1.2
R1 OUT 0 .18
C2 0 N005 .01µ
C3 OUT 0 20µ
R2 N001 N002 50K
XU1 0 N001 0 0 N001 N006 N004 N003 IN OUT OUT N001 N005 N002 LT3071
R3 0 N003 1K
.tran 2m startup
.lib LT3071.sub
.backanno
.end
